US08097610B2
Preparation of 4-(2-hydroxyethyl)-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile
To 4-[2-(t-butyldimethyl silyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile (510 mg) was added tetramethylammonium fluoride (1 M tetrahydrofuran solution, 1.63 mL). The mixture was stirred at 0° C. for 0.5 hour. To the reaction solution was added aqueous citric acid solution and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (366 mg). Yield: 95%.

reactant | 4-[2-(t-butyldimethyl silyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile | 510 mg | C(C)(C)(C)[Si](OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C#N)(C)C | C22H30F3N3OSSi
reactant | tetramethylammonium fluoride | 1 M, 1.63 mL | [F-].C[N+](C)(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(2-hydroxyethyl)-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile | 366 mg, Yield: 95% | OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C#N | C16H16F3N3OS
